US07037632B2
A 10.0 g quantity of 9-fluorenone-4-carbonyl chloride (0.04 mole, obtained from Aldrich Chemicals Co, Milwaukee, Wis. 53201, USA) and 100 ml of tetrahydrofuran (obtained from Aldrich) were added to a 250 ml, 3-neck round bottom flask equipped with a reflux condenser and a mechanical stirrer. The solution was stirred for about ½ hour, and then 9.04 g of 4.4′-(9-fluorenylidene)-bis(2-phenoxyethanol) (0.02 mole, obtained from Aldrich) in 50 ml of tetrahydrofuran were added, followed by the addition of 4.17 g of triethylamine (0.04 mole, obtained from Aldrich). The solution was refluxed for 6 hours, filtered hot to remove triethylamine hydrochloride salt byproduct, and the filtrate was evaporated to dryness to obtain the crude product. The crude product was recrystallized from tetrahydrofuran with activated charcoal. The product was dried at 60° C. in a vacuum oven for 6 hours to yield a fourth dimeric fluorenone derivative, which was a yellow solid (9.0 g, 51% yield). The product had a melting point of 137–138° C. A 1H-NMR (300 MHz) spectrum in CDCl3 yielded chemical shifts (ppm) of: 4.25–4.34 (t, 4H); 4.67–4.77 (t, 4H); 6.71–6.86 (m, 4H); 7.06–7.17 (m, 4H); 7.19–7.48 (m, 12H); 7.65–7.72 (td, 2H); 7.72–7.79 (d, 2H); 7.78–7.84 (dd, 2H); 7.86–7.95 (dd, 2H); 8.22–8.33 (d, 2H).

reactant | 9-fluorenone-4-carbonyl chloride | 0.04 mole | C1=CC=C(C=2C3=CC=CC=C3C(C12)=O)C(=O)Cl | C14H7ClO2
reactant | 4.4′-(9-fluorenylidene)-bis(2-phenoxyethanol) | 0.02 mole, 9.04 g | C1=CC=CC=2C3=CC=CC=C3C(C12)(C1=CC=C(OCCO)C=C1)C1=CC=C(OCCO)C=C1 | C29H26O4
reactant | triethylamine | 0.04 mole, 4.17 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | fluorenone | C1(C=CC=C2C3=CC=CC=C3C=C12)=O | C13H8O
